US06479487B1
1-(2-Benzimidazolyl)methyl-4-piperidone oxime is prepared from 1-(2-benzimidazolyl)methyl-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(2-benzimidazolyl)methyl-4-piperidone | N1=C(NC2=C1C=CC=C2)CN2CCC(CC2)=O | C13H15N3O
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(2-Benzimidazolyl)methyl-4-piperidone oxime | N1=C(NC2=C1C=CC=C2)CN2CCC(CC2)=NO | C13H16N4O
